US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[3′-(phenylcarbonyl)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
In a sealed tube, a mixture of 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (179 mg, 0.265 mmol), 3-bromobenzophenone (66 mg, 0.253 mmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (10 mg, 0.012 mmol) in 2M aq potassium carbonate (0.5 mL, 1.00 mmol) and 1,4-dioxane (1.5 mL) was stirred at 100° C. for 1 h. The reaction was cooled to room temperature and the reaction mixture was diluted with ethyl acetate (10 mL). The layers were separated and the aqueous layer was acidified to pH˜5 using 1N aq HCl. The aqueous layer was then extracted with ethyl acetate (20 mL). The organic layers were combined, dried over MgSO4, and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-3% methanol/ethyl acetate) provided the title compound as an ivory solid (68 mg, 55%) after drying in the vacuum oven (70° C.) for 4 days. MS(ES)+ m/e 493.2 [M+H]+.

reactant | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.265 mmol, 179 mg | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H31BN4O4
reactant | 3-bromobenzophenone | 0.253 mmol, 66 mg | BrC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H9BrO
reactant | potassium carbonate | 1.00 mmol, 2M, 0.5 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[3′-(phenylcarbonyl)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 68 mg, 55% | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)C1=CC=CC=C1 | C30H28N4O3
